US07056917B2
(D) 1-Cyclopropyl-6-fluoro-7-[(4-isopropyl-1,3-thiazol-2-yl)methyl]-2-morpholino-4-oxo-1,4-dihydro-3-quinolinecarboxylic acid
A solution of aluminum chloride (266 mg, 2.00 mmol) in 1,2-dichloroethane (4 ml) was added with dimethyl sulfide (0.293 ml, 4.00 mmol) and stirred at 0° C. for 30 minutes. Then, the reaction mixture was added with ethyl 1-cyclopropyl-6-fluoro-7-[(4-isopropyl-1,3-thiazol-2-yl)methyl]-2-morpholino-4-oxo-1,4-dihydro-3-quinolinecar boxylate (51.5 mg, 0.0999 mmol) and refluxed overnight by heating. The reaction mixture was left stand for cooling, diluted with chloroform, washed with 1 N hydrochloric acid, and dried over anhydrous magnesium sulfate. The solvent was evaporated and the obtained residue was purified by preparative TLC (chloroform:methanol=10:1) to obtain the title compound (1.3 mg, 3%).

reactant | aluminum chloride | 2.00 mmol, 266 mg | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | dimethyl sulfide | 4.00 mmol, 0.293 ml | CSC | C2H6S
reactant | ethyl 1-cyclopropyl-6-fluoro-7-[(4-isopropyl-1,3-thiazol-2-yl)methyl]-2-morpholino-4-oxo-1,4-dihydro-3-quinolinecar boxylate | 0.0999 mmol, 51.5 mg | C1(CC1)N1C(=C(C(C2=CC(=C(C=C12)CC=1SC=C(N1)C(C)C)F)=O)C(=O)OCC)N1CCOCC1 | C26H30FN3O4S
solvent | 1,2-dichloroethane | 4 ml | ClCCCl | C2H4Cl2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 1-Cyclopropyl-6-fluoro-7-[(4-isopropyl-1,3-thiazol-2-yl)methyl]-2-morpholino-4-oxo-1,4-dihydro-3-quinolinecarboxylic acid | 1.3 mg, 3% | C1(CC1)N1C(=C(C(C2=CC(=C(C=C12)CC=1SC=C(N1)C(C)C)F)=O)C(=O)O)N1CCOCC1 | C24H26FN3O4S
